US04002749
A. 3-(2-Pyridinylmethylene)-indolin-2-one
A mixture of oxindole (37.5 g, 0.28 mole), pyridine2-carboxaldehyde (31.8 g, 0.29 mole) and pyrrolidine (21 ml) in 90 ml of methanol is heated on a steam bath. Within a short time an exothermic reaction occurs, resulting in the deposition of a thick solid mass. The solids are collected, washed with methanol and recrystallized from methanol to give 52.5 g of product: m.p. 204°-205°.

reactant | oxindole | 0.28 mole, 37.5 g | N1C(CC2=CC=CC=C12)=O | C8H7NO
reactant | pyridine2-carboxaldehyde | 0.29 mole, 31.8 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | pyrrolidine | 21 ml | N1CCCC1 | C4H9N
solvent | methanol | 90 ml | CO | CH4O
product | 3-(2-Pyridinylmethylene)-indolin-2-one | 52.5 g | N1=C(C=CC=C1)C=C1C(NC2=CC=CC=C12)=O | C14H10N2O
